Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
memory
 
Major Surgical or Invasive Procedure:
Date of Implant: ___
Indication: ICM EF <35%, ___ class I-II, NSVT, sinus 
bradycardia
___
Device brand/name: ___ MRI XT ___ ___ 
Model Number: ___
A lead brand/model/implant date: ___ CapSureFix® Novus BBL ___ ___
RV lead brand/model/implant date: ___ Sprint ___ MRI TDL
330 498 V ___

 
History of Present Illness:
HPI: Dr. ___ is a ___ year old man w/ a PMH of HFrEF (EF 35%)
due to ischemic cardiomyopathy,CAD s/p PCI and repeat PCI due to
restenosis, anteroseptal MI.

He has no history of neurological symptoms and is doing well.
Retired, functions in the community normally. 

He states he was in his usual state of health leading up to
today. He does note that he hit his head on the R temporal area
on an antique cross in his house on ___ or ___, but
there was no loss of consciousness, or bruising at the site,
which he monitored carefully and he did not have any symptoms
following that. 

He notes that at baseline he has low energy and feels drained
with doing anything activity easily and gets sleepy in the
afternoon, he states he thinks this is because his cardiologist
has a low SBP goal for him, with a target of SBP <110. He states
his SBP is usually in the 90-100s. The previous day prior to
presentation, he had felt especially low energy compared to
normal. He states he never measures his blood pressure at home.
He notes that when he woke up this morning, he actually felt
better than he typically does.  He was planning on going to the
___ with his wife and friend today. He ate breakfast normally.
His wife and friend left the house at 10:___n errand.
When they came back around 12:00pm, they noted that Dr. ___
was acting oddly. He was standing next to the breakfast table,
dressed appropriately, and appeared ready to go to the ___. He
stated to them "I know I'm ready, but I don't know where I'm
going." He did not recall that they planned on going to the ___.
They then noted he pulled a pocketwatch out of his pocket and
asked "where did this come from? the time is also not right on
it." He currently states he had put the pocketwatch into his
pocket in order to take to the store to have the battery 
replaced
on his way to the ___. He looked at a book that was on the 
table,
which he had been reading earlier in the morning, and had 
checked
out from the library the day before and asked "What is this
book?" As they were preparing to leave, his friend and wife 
noted
that over a 3 minute period he asked 4 times what the weather 
was
going to be like and whether he should bring an umbrella. His
wife also notes that he seemed like he was in the "twilight 
zone"
and almost seemed like he was sleep walking. She notes his
movements seemed slower globally during this as well. He was
otherwise speaking to them normally. They are not sure whether 
he
recalled more remote events, as they did not discuss anything
pertaining to this. He did have problems with recent events at
the time this occurred, as noted in the examples above. His
friend and wife did not note any repetitive movements, did not
say anything about odd smells or tastes. He did not mention
anything about any visual symptoms at the time.

They got into a Lyft, during the ride, his friend called the
nurse for his cardiologist and mentioned the symptoms he was
having. They advised he present to the ED for evaluation.
Sometime in the ED, he appeared to have improved and was near 
his
baseline mental status. He arrived to triage at 1:45pm, so
sometime within an hour after that he had improved.

When asking Dr. ___ the events, he states that he
remembers after his wife and friend had left the house, getting
ready to go out. He took a shower, got dressed, he states he
remembers them coming back into the house and going to greet
them, after this point, he does not remember events. His next
clear memory was leaving the house. He recalls wondering about 
an
umbrella, but does not recall asking about it multiple times. 
His
wife states that his recollection of events upon leaving the
house are not entirely accurate to what occurred. At the time of
the interview in the ED around 5pm, he feels that he has 
improved
and does not particularly notice any issue anymore. His review 
of
systems is negative as below. He denies any recent emotional
stressors, strenuous physical work recently.

He also notes he is a participant in an aging study (where he
takes batteries of cognitive tests) and is in the normal group
for his age.

 
Past Medical History:
HFrEF (35%)
CAD s/p PCI and repeat PCI due to restenosis
MI     
 
Social History:
___
Family History:
Mother with brain aneurysm that ruptured at age ___, occurred
after she had finished performing a long surgery.

 
Physical Exam:
Admission Physical Exam: 

PHYSICAL EXAMINATION
Vitals: T98.6 HR70 BP 149/74 RR18 Spo2 99% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to ___ ___ ER (all
correct) Has good knowledge of current events. When asked, he
states that the nation is in turmoil currently due to "agent
___" (the president) and that if the president had his way
people like him and myself, the interviewer, would be deported.
Specifically he relates that the ___ court nominee ___
has a scandal going on. 

Able to relate history without  difficulty. Attentive, able to
name ___ backward without difficulty, and quickly. Language is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Pt was able to name both high
and low frequency objects.  Able to read without difficulty.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect. Able to do basic arithmetic.

Able to register 5 words without difficulty (face, church,
velvet, ___, red). At 5 minutes, recalls ___ spontaneously.
With category cues able to recall 1 additional word. With
multiple choice, able to recall 1 additional word. He states he
does not think this would be his baseline level of recall.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation with red 
object.
Visual acuity ___ bilaterally. Fundoscopic exam revealed no
papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1

Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE PHYSICAL EXAM: 

 
Pertinent Results:
___ 05:35AM BLOOD WBC-5.7 RBC-4.71 Hgb-13.4* Hct-40.7 
MCV-86 MCH-28.5 MCHC-32.9 RDW-12.8 RDWSD-39.8 Plt ___
___ 02:00PM BLOOD Neuts-64.2 ___ Monos-5.7 Eos-2.2 
Baso-0.9 Im ___ AbsNeut-4.14 AbsLymp-1.71 AbsMono-0.37 
AbsEos-0.14 AbsBaso-0.06
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-97 UreaN-17 Creat-1.2 Na-145 
K-4.1 Cl-108 HCO3-27 AnGap-10
___ 05:35AM BLOOD ALT-16 AST-20 LD(LDH)-186 AlkPhos-68 
TotBili-0.8
___ 02:00PM BLOOD ALT-20 AST-35 AlkPhos-74 TotBili-0.6
___ 02:00PM BLOOD Lipase-56
___ 02:00PM BLOOD cTropnT-<0.01
___ 05:35AM BLOOD Albumin-3.8 Calcium-8.9 Phos-3.9 Mg-2.1 
Cholest-116

IMAGING: 
CTA H/n prelim read
Noncontrast CT head: No acute intracranial abnormality. 
  
CTA head and neck: There is no high-grade stenosis, occlusion, 
or
aneurysm of the major vessels of the head and neck. 
  
Visualized lung apices show no concerning parenchymal
consolidation.  
Visualized thyroid gland is heterogeneous with 1.2 cm nodule in
the right lobe for which no specific follow up is recommended 
per
ACR guidelines. 
  
Please see full read pending 3D reformats on review by the neuro
radiology team. 

MRI BRAIN:
No acute pathology
 
Brief Hospital Course:
 ___ year old man with h/o CAD/anteroseptal MI s/p PCI in ___ 
with repeat PCI due to restenosis, infarct related 
cardiomyopathy (EF 35%) and NSVT who was admitted on
account of changes in his mental status and was diagnosed with 
transient global amnesia. CTA and MRI brain are unremarkable.
Hence, there was concern that the TGA could have been caused by 
VT. Given that patient already meets criteria for primary 
prevention ICD and concern that VT may be responsible for his 
TGA, decision was made to implant the ICD during this admission.
He underwent a successful dual chamber ICD implant ___. 
He was discharged home on ___.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___  
2.  Metoprolol Succinate XL 12.5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Clopidogrel 75 mg PO DAILY  
6.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Global Amnesia
cardiomyopathy
non sustained ventricular tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital after  you had an episode of 
amnesia for a period of about ___ minutes on ___. You were 
evaluated in the emergency room by neurology and underwent head 
imaging including a CT head/CTA head and neck which did not 
reveal any acute pathology. You were then admitted to the stroke 
neurology service for further evaluation and observation for 
TGA- Transient Global Amnesia. 

While admitted, you underwent an MRI of your brain without 
contrast which did not show any acute pathology such as 
microbleeds, large infarcts, bleeds, tumor, swelling, or 
hippocampal involvement to explain your amnesia. You remained 
stable without further amnestic episodes during your stay. 

You had an episode of lightheadedness and a sensation of 
warmth/heat that corresponded to a 29 beat run of v-tach on 
telemetry. We contacted the EP/Cardiologists here who reviewed 
your telemetry and recommended continuation of 25mg metoprolol 
BID (which you are taking at home). Your cardiologist, Dr. 
___ placing an automatic internal 
defibrillator as primary prevention of cardiac arrest from 
lethal arrhythmia as you are at an increased risk due to your 
cardiomyopathy and it was possible that arrhythmia contributed 
to your episode of TGA.
Your nurse ___ review activity restrictions and care of the 
pacemaker site prior to discharge.
We decreased your Metoprolol to 12.5mg Daily per ___ this 
new prescription was sent electronically to ___ in ___.
If you have any questions related to your admission prior to 
your follow up please call ___ to speak with a 
cardiologist or ___ cardiology NP.
It was a pleasure working with you and we wish you the best in 
health! 
 
Followup Instructions:
___